US07732460B2
(d) 5-(3-Hydroxypropyl)-1-{[4-(methyloxy)phenyl]methyl}-1,2-dihydro-3,6-pyridazinedione
Butyl 3-(2-{[4-(methyloxy)phenyl]methyl}-3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)propanoate (0.56 g, 1.56 mmol) was dissolved in dry THF (30 ml). The solution, under argon, was cooled to −30° C., and treated dropwise with a 1M solution of lithium aluminium hydride in THF (1.8 ml, 1.8 mmol), allowed to warm gradually to 0° C. and stirred in an ice bath for 30 minutes. 2M hydrochloric acid was added until the pH was 3 and the mixture was partitioned between water and ethyl acetate. The aqueous was re-extracted with ethyl acetate and the combined organic solution dried and evaporated. Chromatography of the residue, eluting with ethyl acetate, gave the product as a white solid (300 mg, 67%).

reactant | Butyl 3-(2-{[4-(methyloxy)phenyl]methyl}-3,6-dioxo-1,2,3,6-tetrahydro-4-pyridazinyl)propanoate | 1.56 mmol, 0.56 g | COC1=CC=C(C=C1)CN1NC(C=C(C1=O)CCC(=O)OCCCC)=O | C19H24N2O5
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 1.8 mmol, 1.8 ml | C1CCOC1 | C4H8O
product | 5-(3-Hydroxypropyl)-1-{[4-(methyloxy)phenyl]methyl}-1,2-dihydro-3,6-pyridazinedione | 300 mg, 67% | OCCCC1=CC(NN(C1=O)CC1=CC=C(C=C1)OC)=O | C15H18N2O4
